US06165943
At 20-25° C., 53.3 g of an 80% strength solution of propargyl bromide in toluene (=0.36 mol of propargyl bromide) are added dropwise to a solution of 120 g (0.67 mol) of 4-amino-2,2-difluorobenzo-1,3-dioxole in 150 ml of toluene. After 2 hours at 80° C., the reaction mixture is cooled to room temperature and the precipitate is filtered off with suction and washed with n-hexane. The filtrate is concentrated under reduced pressure and the residue is purified over silica gel using cyclohexane/ethyl acetate mixtures and then-crystallized from pentane. 33.2 g (44% of theory) of N-propargyl-4-amino-2,2-difluorobenzo-1,3-dioxole of mp.: 66-68° C. are obtained in this manner. NMR: (CDCl3): 2.25 (t, 1H); 3.9 (2*s, 3H); 6.30 (dd, 1H); 6.50 (d, 1H); 6.85 (d, 1H)

reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | 4-amino-2,2-difluorobenzo-1,3-dioxole | 0.67 mol, 120 g | NC1=CC=CC=2OC(OC21)(F)F | C7H5F2NO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.36 mol | C1(=CC=CC=C1)C | C7H8
product | N-propargyl-4-amino-2,2-difluorobenzo-1,3-dioxole | 33.2 g, 44% | C(C#C)NC1=CC=CC=2OC(OC21)(F)F | C10H7F2NO2
